US06756380B1
A solution of 2.40 g (6.5 mmol) [5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidin-4-yl]-methyl-carbamic acid tert-butyl ester in 30 ml MeOH/HCl (2N) was stirred at 55° for 3 hrs. After evaporation of the solvent, the residue was distributed between 40 ml 1N NaOH and 40 ml CH2Cl2. The phases were separated, the aqueous layer washed twice with 50 ml CH2C2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 19:1) to give 1.70 g (97%) [5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidin-4-yl]-methyl-amine as a white solid, MS (EI): 265 (M+).

reactant | [5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidin-4-yl]-methyl-carbamic acid tert-butyl ester | 6.5 mmol, 2.40 g | C(C)(C)(C)OC(N(C)C1=NC(=NC=C1C1=C(C=CC=C1)Cl)SC)=O | C17H20ClN3O2S
solvent | MeOH HCl | 2N, 30 ml | CO.Cl
product | [5-(2-chloro-phenyl)-2-methylsulfanyl-pyrimidin-4-yl]-methyl-amine | 1.70 g, 97% | ClC1=C(C=CC=C1)C=1C(=NC(=NC1)SC)NC | C12H12ClN3S
